US06207678B1
4-Phenylquinuclidine (5 g) (see J. Org. Chem., 22, 1484, (1957)) was dissolved in glacial acetic acid (25 ml), 5% w/w rhodium-on-alumina (2 g) was added and the mixture hydrogenated for 5 days at 345 kPa (50 psi). The mixture was filtered through a short column of Arbacel (trade mark) filter aid and the pad washed with methanol. The filtrate was collected and the solvent removed under reduced pressure to give a residue which was dissolved in water. The pH was adjusted to >10 by addition of 0.88 aqueous ammonia solution. The aqueous mixture was extracted with ethyl acetate (×3) and the organic layers combined, washed with brine, dried over anhydrous sodium sulphate and the solvent removed under reduced pressure to give 4-cyclohexylquinuclidine (4.7 g) as a pale pink solid.

reactant | 4-Phenylquinuclidine | 5 g | C1(=CC=CC=C1)C12CCN(CC1)CC2 | C13H17N
reactant | ammonia | N | H3N
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
catalyst | rhodium-on-alumina | 2 g | [Rh] | Rh
product | 4-cyclohexylquinuclidine | 4.7 g | C1(CCCCC1)C12CCN(CC1)CC2 | C13H23N
